US04959372
Tert-butyl (S)-Nα -[(S)-1-carbethoxy-3-phenylpropyl]-Nε -benzyloxycarbonyllysinate
10 g (0.0268 mol) of tert-butyl Nε -benzyloxycarbonyllysinate hydrochloride are dissolved in 150 cm3 of anhydrous ethanol; 2.71 g (0.0268 mol) of triethylamine, 20.6 g (0.1 mol) of ethyl 2-oxo-4-phenylbutyrate and 20 g of 4Å molecular sieve are added. The mixture is stirred for one hour at 20° C. A solution of 1.68 g (0.0268 mol) of sodium cyanoborohydride in 20 cm3 of ethanol is then added in the course of 4 hours, after which stirring is continued for 18 hours at 20° C. The mixture is filtered and taken to dryness, the residue is redissolved in 200 cm3 of ethyl acetate and the solution is then washed twice with 100 cm3 of a 10% strength aqueous citric acid solution and then with water until the washing liquors are neutral. The mixture is dried over magnesium sulfate and evaporated. 28.7 g of an oil are collected, and this is purified by chromatography on silica gel (eluent: methylene chloride/acetone 95:5). After the removal of impurities and then the (S, R) isomer, 4.1 g of tert-butyl (S)-Nα -[(S)-1-carbethoxy-3-phenylpropyl]-Nε -benzyloxycarbonyllysinate are collected, and used without further treatment in the following stage.

reactant | tert-butyl Nε -benzyloxycarbonyllysinate hydrochloride | 0.0268 mol, 10 g | Cl.C(C1=CC=CC=C1)OC(=O)NCCCC[C@H](N)C(=O)OC(C)(C)C
reactant | triethylamine | 0.0268 mol, 2.71 g | C(C)N(CC)CC | C6H15N
reactant | ethyl 2-oxo-4-phenylbutyrate | 0.1 mol, 20.6 g | O=C(C(=O)OCC)CCC1=CC=CC=C1 | C12H14O3
reactant | sodium cyanoborohydride | 0.0268 mol, 1.68 g | C(#N)[BH3-].[Na+]
solvent | ethanol | 150 cm3 | C(C)O | C2H6O
solvent | ethanol | 20 cm3 | C(C)O | C2H6O
product | Tert-butyl (S)-Nα -[(S)-1-carbethoxy-3-phenylpropyl]-Nε -benzyloxycarbonyllysinate | C(=O)(OCC)[C@H](CCC1=CC=CC=C1)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C30H42N2O6
